US07759337B2
To a solution of 4-chloro-2-fluoro-3-iodobenzaldehyde oxime (0.860 g, 2.87 mmol) in DMF (5 mL) at RT was added N-chlorosuccinimide (140 mg). The mixture was heated at 55° C. for 5 min. The mixture was allowed to cool below 50° C. and additional N-chlorosuccinimide (282 mg) was added, and heating continued at 55° C. for 20 min. The resulting reaction mixture was allowed to cool to RT and treated with water (20 mL), and extracted with ethyl acetate (3×30 mL). The combined ethyl acetate layers were washed with brine, dried over magnesium sulfate and concentrated to afford 4-chloro-2-fluoro-3-iodobenzoyl chloride oxime as a light yellow amorphous solid. MS (ESI, pos.ion) m/z: 335 (M+1)

reactant | 4-chloro-2-fluoro-3-iodobenzaldehyde oxime | 2.87 mmol, 0.860 g | ClC1=C(C(=C(C=NO)C=C1)F)I | C7H4ClFINO
reactant | N-chlorosuccinimide | 140 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | N-chlorosuccinimide | 282 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | water | 20 mL | O | H2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 4-chloro-2-fluoro-3-iodobenzoyl chloride oxime | ClC1=C(C(=C(C(Cl)=NO)C=C1)F)I | C7H3Cl2FINO
